### PR TITLE
added group definitons for unnormalised rational

### PR DESCRIPTION
**Pull request by riz0id**
added group definitions for unnormalised rationals

### CODE REVIEW

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 1]
```diff
@@ -275,6 +275,38 @@ p ≤? q = Dec.map′ *≤* drop-*≤* (↥ p ℤ.* ↧ q ℤ.≤? ↥ q ℤ.* 
...
++-inverseʳ p = *≡* let n = ↥ p; d = ↧ p in
+  (n ℤ.* d ℤ.+ (ℤ.- n) ℤ.* d) ℤ.* 1ℤ ≡⟨ ℤ.*-identityʳ (n ℤ.* d ℤ.+ (ℤ.- n) ℤ.* d) ⟩
+  n ℤ.* d ℤ.+ (ℤ.- n) ℤ.* d          ≡˘⟨ cong (λ n+d → n ℤ.* d ℤ.+ n+d) (ℤ.neg-distribˡ-* n d) ⟩
+  n ℤ.* d ℤ.+ ℤ.- (n ℤ.* d)          ≡⟨ ℤ.+-inverseʳ (n ℤ.* d) ⟩
+  0ℤ ∎ where open ≡-Reasoning
+  
++-inverse : Inverse _≃_ 0ℚᵘ -_ _+_
++-inverse = +-inverseˡ , +-inverseʳ
+ 
++-inverse-cong : Congruent₁ _≃_ (-_)
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda]: I think the standard name for this is `-‿cong`

File: CHANGELOG.md [hunk 2]
```diff
@@ -457,3 +457,13 @@ Other minor additions
...
   ```
+
+* Added new proofs to `Data.Rational.Unnormalised.Properties`:
+  ```agda
+  +-inverseˡ  : LeftInverse _≃_ 0ℚᵘ -_ _+_
+  +-inverseʳ  : RightInverse _≃_ 0ℚᵘ -_ _+_
+  +-inverse   : Inverse _≃_ 0ℚᵘ -_ _+_
+  +-cong⁻¹    : Congruent₁ _≃_ (-_)
+  +-0-isGroup : IsGroup _≃_ _+_ 0ℚᵘ (-_)
+  +-0-group : Group 0ℓ 0ℓ
```
Comment (MatthewDaggitt) [inline CHANGELOG.md]: `+-0-group` doesn't seem to be included in the pull request?

**Comment by MatthewDaggitt** [comment]
Oh and you also need to run `fix-agda-whitespace` on your code (see [HACKING.md](https://github.com/agda/agda-stdlib/blob/master/HACKING.md))

**Comment by MatthewDaggitt** [comment]
Thanks for the changes! I'll leave it up for a few days in case anyone else has any comments, and after that I'll merge it in.
